US05436257
5-{4-[2(R)-t-Butoxycarbonylamino-4-methylpentyloxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione
2.1 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione [prepared as described in Preparation 11] were added to a mixture of 2.28 g of 1,1'-azodicarbonyl-dipiperidine, 3.34 ml of tributylphosphine and 100 ml of anhydrous benzene. The resulting mixture was stirred at room temperature for one and a half hours, after which 2 g of 2(R)-t-butoxycarbonylamino-4-methylpentanol [prepared as described in Preparation 15] were added. The mixture was then stirred for a further five hours at the same temperature. At the end of this time, insolubles were filtered off and the filtrate was concentrated. The resulting residue was then purified by column chromatography through silica gel, using a 1:4 by volume mixture of ethyl acetate and hexane as the eluent, to obtain 1.05 g of the title compound, having an Rf=0.54 (thin layer chromatography on silica gel, using a 1:4 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 2.1 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | 1,1'-azodicarbonyl-dipiperidine | 2.28 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 3.34 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2(R)-t-butoxycarbonylamino-4-methylpentanol | 2 g | C(C)(C)(C)OC(=O)N[C@@H](CO)CC(C)C | C11H23NO3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-[2(R)-t-Butoxycarbonylamino-4-methylpentyloxy]benzyl}-3-triphenylmethylthiazolidine-2,4-dione | 1.05 g | C(C)(C)(C)OC(=O)N[C@@H](COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)CC(C)C | C40H44N2O5S
